US08536203B2
To a stirred solution of methylamine (0.63 mL, 33% EtOH solution, 5 mmol) in a mixture of ethanol (25 mL) and acetic acid (0.5 mL) at room temperature was added ethyl 3-oxo-3-(2-(trifluoromethyl)pyridin-3-yl)propanoate (1.305 g, 5 mmol). The reaction mixture was heated at reflux for two hours whereupon the solvent was removed by evaporation under vacuum. To a solution of the crude product in dimethylformamide (25 mL) was added potassium carbonate (2.07 g, 15 mmol) in one portion followed by 1-(3,4-bis-benzyloxy-5-nitro-phenyl)-2-bromo-ethanone (2.51 g, 5.50 mmol) and the mixture was then stirred at 100° C. Once no starting material was detectable, the reaction mixture was allowed to cool to room temperature and poured onto ice-cold 1 N aqueous hydrochloric acid (100 mL). The resulting precipitate was filtered off, washed with water and dried. The residue was chromatographed over silica gel. Homogeneous fractions were pooled and evaporated to give ethyl 5-(3,4-bis(benzyloxy)-5-nitrophenyl)-1-methyl-2-(2-(trifluoromethyl)pyridin-3-yl)-1H-pyrrole-3-carboxylate, 2.492 g (79%).

reactant | methylamine | 5 mmol, 0.63 mL | CN | CH5N
reactant | ethyl 3-oxo-3-(2-(trifluoromethyl)pyridin-3-yl)propanoate | 5 mmol, 1.305 g | O=C(CC(=O)OCC)C=1C(=NC=CC1)C(F)(F)F | C11H10F3NO3
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3,4-bis-benzyloxy-5-nitro-phenyl)-2-bromo-ethanone | 5.50 mmol, 2.51 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C(CBr)=O | C22H18BrNO5
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | ethyl 5-(3,4-bis(benzyloxy)-5-nitrophenyl)-1-methyl-2-(2-(trifluoromethyl)pyridin-3-yl)-1H-pyrrole-3-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C1=CC(=C(N1C)C=1C(=NC=CC1)C(F)(F)F)C(=O)OCC | C34H28F3N3O6
